US08431596B2
Trifluoro-methanesulfonic acid 3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-phenyl ester
N-Phenyl-bis(trifluoromethanesulfonimide) (0.51 g, 1.44 mmol) was added to a stirred solution of 3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-phenol 0.4 g, 0.96 mmol) and triethylamine (0.27 ml, 1.92 mmol) in dichloromethane (20 ml). The mixture was stirred for 2 hours at room temperature. Water was added and the product extracted into dichloromethane (×2). The organics were combined, washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to give the desired product. Yield 0.53 g, 100%. LCMS RT: 5.08 min, MI: 548, Method: 2.

reactant | N-Phenyl-bis(trifluoromethanesulfonimide) | 1.44 mmol, 0.51 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | 3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-phenol | 0.96 mmol, 0.4 g | N1(CCCC1)CCOC1=CC=C(C=C1)NC1=NN2C(C=CC=C2C=2C=C(C=CC2)O)=N1 | C24H25N5O2
reactant | triethylamine | 1.92 mmol, 0.27 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Trifluoro-methanesulfonic acid 3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-phenyl ester | N1(CCCC1)CCOC1=CC=C(C=C1)NC1=NN2C(C=CC=C2C=2C=C(C=CC2)OS(=O)(=O)C(F)(F)F)=N1 | C25H24F3N5O4S
